US06475957B1
At 0° C., potassium tert-butoxide (6.2 g, 55.4 mmol) was added to a solution of methyltriphenylphosphonium bromide (19.7 g, 55.4 mmol) in THF (180 ml). At from −10 to −5° C., 3-bromo-2-methoxy-6-methylsulfanylbenzaldehyde (12 g, 46 mmol) dissolved in THF (180 ml) was then added, and the mixture was stirred overnight at RT for 7 h. The mixture was filtered, and the solution was admixed with H2O (200 ml) and MTBE (200 ml) and then extracted with MTBE (200 ml). The combined organic phases were dried over MgSO4 and concentrated. Chromatography (cyclohexanez→cyclohexane/EtOAc 9:1) gave 1-bromo-2-methoxy-4-methylsulfanyl-3-vinylbenzene.

reactant | potassium tert-butoxide | 55.4 mmol, 6.2 g | CC(C)([O-])C.[K+]
reactant | 3-bromo-2-methoxy-6-methylsulfanylbenzaldehyde | 46 mmol, 12 g | BrC=1C(=C(C=O)C(=CC1)SC)OC | C9H9BrO2S
catalyst | methyltriphenylphosphonium bromide | 55.4 mmol, 19.7 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 180 ml | C1CCOC1 | C4H8O
solvent | THF | 180 ml | C1CCOC1 | C4H8O
product | 1-bromo-2-methoxy-4-methylsulfanyl-3-vinylbenzene | BrC1=C(C(=C(C=C1)SC)C=C)OC | C10H11BrOS
